US04526787
To a solution of 33.5 g (0.15 mol) of diethyl pyridine-2,5-dicarboxylate in 300 mL of absolute EtOH was added 11.4 g (0.3 mol) of NaBH4 in several portions over a 30-min period. Then a solution of 33.3 g (0.3 mol) of anhydrous CaCl2 in 200 ml of EtOH was added dropwise over a 1-h period. The mixture was stirred at room temperature for 16 h, and then it was neutralized with 12 to 13 mL of concentrated H2SO4. The CaSO4, which precipitated, was removed by centrifugation (two EtOH washings). The combined supernatant was concentrated, dissolved in about 10 mL of H2O, and applied to a 4.5×18-cm column of Dowex 50W-X8 cation exchange resin (H+ form). The column was eluted with H2O until the eluate was no longer acidic, and then it was eluted with dilute NH4OH, which removed the 2,5-pyridinedimethanol from the column. Evaporation afforded 10.6 g (51% yield) of 2,5-pyridinedimethanol as a light brown hygroscopic solid: 1H NMR (Me2SO-d6) δ4.55 and 4.59 (2 s, 4, CH2OH), 5.23 (broad s, 2, CH2OH), 7.42 (d, J=8 Hz, 1, 3'--H), 7.72 (dd, J=2 Hz, J=8 Hz, 1, 4--H), 8.42 (d, J=2 Hz, 1, 6'--H).

reactant | diethyl pyridine-2,5-dicarboxylate | 0.15 mol, 33.5 g | N1=C(C=CC(=C1)C(=O)OCC)C(=O)OCC | C11H13NO4
reactant | NaBH4 | 0.3 mol, 11.4 g | [BH4-].[Na+]
reactant | CaCl2 | 0.3 mol, 33.3 g | [Cl-].[Cl-].[Ca+2]
reactant | H2SO4 | 12 to 13 mL | OS(=O)(=O)O | H2O4S
solvent | EtOH | 300 mL | CCO | C2H6O
solvent | EtOH | 200 ml | CCO | C2H6O
product | 2,5-pyridinedimethanol | 10.6 g, 51% yield | N1=C(C=CC(=C1)CO)CO | C7H9NO2
